US06087304
1.5 g (6.1 mmol) of methyl 4-hydroxy-6-methoxy-1-methyl-2-naphthoate and 0.49 g (9.1 mmol) of sodium methoxide are stirred at 40° C. under argon for 15 min in 25 ml of DMF. 1.4 g of diethylaminoethyl chloride are then added and the mixture is additionally stirred at 40° C. for 30 min. The DMF is stripped off on a rotary evaporator, the residue is taken up in dilute hydrochloric acid, and the mixture is extracted with ethyl acetate. The aqueous phase is rendered alkaline with sodium hydroxide solution and extracted with ethyl acetate again. After concentrating this extract, 1.8 g of crude methyl 4-diethylaminoethyloxy-6-methoxy-1-methyl-2-naphthoate are obtained, which is hydrolyzed directly to the acid by boiling for 2 hours with 1 g of KOH in 20 ml of methanol. After concentrating the reaction mixture, the residue is dissolved in 20 ml of water and acidified to pH 5.5 with concentrated hydrochloric acid, the product precipitating. 0.5 g of 4-diethylamino-ethyloxy-6-methoxy-1-methyl-2-naphthoic acid is obtained; m.p. 170° C.

reactant | methyl 4-hydroxy-6-methoxy-1-methyl-2-naphthoate | 6.1 mmol, 1.5 g | OC1=CC(=C(C2=CC=C(C=C12)OC)C)C(=O)OC | C14H14O4
reactant | sodium methoxide | 9.1 mmol, 0.49 g | C[O-].[Na+]
reactant | diethylaminoethyl chloride | 1.4 g | C(C)N(CC)CCCl | C6H14ClN
reactant | KOH | 1 g | [OH-].[K+]
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | methanol | 20 ml | CO | CH4O
product | 4-diethylamino-ethyloxy-6-methoxy-1-methyl-2-naphthoic acid | 0.5 g | C(C)N(C1=C(C(=C(C2=CC=C(C=C12)OC)C)C(=O)O)OCC)CC | C19H25NO4
